US07618985B2
Sodium triacetoxyborohydride (100 mg, 3.9 mol eq) was added to a solution of 6-(piperidin-4-yloxy)-2H-isoquinolin-1-one (30 mg, 0.12 mmol), acetic acid (2 drops) and 4-methylbenzaldehyde (50 μl or 50 mg) in N, N-dimethylformamide (700 μl) and shaken for 17 hours. The reaction was quenched with water and methanol and the product semi-purified using an SCX cartridge. The product was further purified by prep-HPLC to afford 6-[1-(4-Methylbenzyl)piperidin4-yloxy]-2H-isoquinolin-1-one: El-MS: m/z=349.4 [M+H]+.

reactant | Sodium triacetoxyborohydride | 3.9 mol, 100 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 6-(piperidin-4-yloxy)-2H-isoquinolin-1-one | 0.12 mmol, 30 mg | N1CCC(CC1)OC=1C=C2C=CNC(C2=CC1)=O | C14H16N2O2
reactant | 4-methylbenzaldehyde | 50 μl, 50 mg | CC1=CC=C(C=O)C=C1 | C8H8O
catalyst | acetic acid | 2 drops | C(C)(=O)O | C2H4O2
solvent | N, N-dimethylformamide | 700 μl | CN(C=O)C | C3H7NO
product | 6-[1-(4-Methylbenzyl)piperidin4-yloxy]-2H-isoquinolin-1-one | CC1=CC=C(CN2CCC(CC2)OC=2C=C3C=CNC(C3=CC2)=O)C=C1 | C22H24N2O2
